US04738972
Quinoline (6.0 g, 0.0047 mol) in 15 ml of tetrahydrofuran was added to benzyl magnesium bromide (47 ml of 2M in tetrahydrofuran, 0.0094 mol) via a syringe. After stirring for 0.5 hour, the reaction mixture was cooled to 0°, and an equal volume of H2O was added slowly. An exothermic reaction was noted. The aqueous solution was extracted 3×125 ml of ether. The organic layers were combined, dried (K2CO3) and stripped in vacuo to yield intermediate 2-benzyl-1,2-dihydroquinoline as an oil, 11.3 g (0.0051 mol). The latter was taken up in 50 ml of nitrobenzene, refluxed for 2 hours, cooled to room temperature, poured into 150 ml of 1M HCl, and extracted 2×200 ml ether. The aqueous layer was adjusted to pH 8 with saturated NaHCO3 and extracted 3×200 ml ether. The latter ether extracts were combined, dried (MgSO4) and stripped in vacuo to an oil, 4.56 g. The latter was twice chromatographed on a thick layer of silica gel, using 12:1 hexane:ethyl acetate as eluant. In each case, the second band to elute was separated. In this manner 1.3 g of intermediate 2-benzylquinoline was isolated. The latter intermediate (0.5 g, 0.0023 mol) was dissolved in 10 ml of dry ethanol and brought to reflux. Sodium metal (0.8 g) was added over the course of 2 hours. After an additional 1.5 hours of reflux, the contents of the flask began to solidify. The reaction mixture was then cooled to room temperature, stripped of ethanol in vacuo, and the residual solid dissolved in 50 ml of H2O and extracted 3×50 ml benzene. The combined benzene extracts were dried (K2CO3) and stripped to an oil, 0.39 g. The latter was chromatographed on a thick layer plate of silica gel using CHCl3 as eluant to yield purified title product, 0.35 g.

reactant | Quinoline | 0.0047 mol, 6.0 g | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | benzyl magnesium bromide | 0.0094 mol, 2M, 47 ml | C(C1=CC=CC=C1)[Mg]Br
reactant | H2O | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-benzyl-1,2-dihydroquinoline | C(C1=CC=CC=C1)C1NC2=CC=CC=C2C=C1 | C16H15N
